US06133258
The reaction procedure of Example 11 was followed except that 949 mg (3.52 mmol) of 2-(4-methylanilino)-4H-pyrido[3,2-e]-1,3-thiazin-4-one, 28 mg of lithium hydride and 500 mg of methyl iodide were used. The resulting residue was then purified through silica gel column chromatography (eluant: chloroform) to obtain 698 mg of 2,3-dihydro-3-methyl-2-[(4-methylphenyl)imino]-4H-pyrido[3,2-e]-1,3-thiazin-4-one (70%, recrystallized from a mixture of ether and hexane).

reactant | 2-(4-methylanilino)-4H-pyrido[3,2-e]-1,3-thiazin-4-one | 3.52 mmol, 949 mg | CC1=CC=C(NC=2SC3=C(C(N2)=O)C=CC=N3)C=C1 | C14H11N3OS
reactant | lithium hydride | 28 mg | [H-].[Li+]
reactant | methyl iodide | 500 mg | CI | CH3I
product | 2,3-dihydro-3-methyl-2-[(4-methylphenyl)imino]-4H-pyrido[3,2-e]-1,3-thiazin-4-one | 698 mg | CN1C(SC2=C(C1=O)C=CC=N2)=NC2=CC=C(C=C2)C | C15H13N3OS
